US06165941
3-Chloro-2-(4-hydroxycarbonylmethyl-3-nitrophenyl)-5-tri-fluoromethylpyridine
16 ml of trifluoroacetic acid were added dropwise to a solution of 10.2 g of 3-chloro-2-[4-(bis-[1,1-dimethylethoxycarbonyl]-methyl)-3-nitrophenyl]-5-trifluoromethylpyridine in 100 ml of anhydrous dichloromethane. After stirring at 23° C. for 65 hours, the methylene chloride was removed by distillation. The residue was dissolved in 100 ml of ether, after which the ether phase was extracted three times with 50 ml of water each time, dried over sodium sulfate and concentrated. The crude product was stirred with n-hexane/ether (9:1). Yield: 5.1 g (72%) of colorless crystals.

reactant | trifluoroacetic acid | 16 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-chloro-2-[4-(bis-[1,1-dimethylethoxycarbonyl]-methyl)-3-nitrophenyl]-5-trifluoromethylpyridine | 10.2 g | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)C(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)[N+](=O)[O-] | C23H24ClF3N2O6
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-Chloro-2-(4-hydroxycarbonylmethyl-3-nitrophenyl)-5-tri-fluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)C1=CC(=C(C=C1)CC(=O)O)[N+](=O)[O-] | C14H8ClF3N2O4
